### PR TITLE
  Add wrapping shift definitions and fix OWrap shift extraction

### LINKED ISSUE #816: Bug: Wrapping shifts (`OWrap`) produce undefined `U64.shr` / `U64.shl` in Lean output
When shift operations reach Aeneas with overflow mode `OWrap`, the Lean extraction produces function names like `U64.shr` and `U64.shl` that do not exist in the Lean library. This problem was discovered due to a bug in Charon (https://github.com/AeneasVerif/charon/issues/1041) where `reconstruct_fallible_operations` fails to promote shifts assigned through dereferenced pointers from `OWrap` to `OPanic`. I believe Charon intends to promote all shifts to `OPanic`, so `OWrap` shifts should never reach Aeneas once the Charon bug is fixed. Compilation with `-C opt-level=2` (as follows) is not standard unless trying to produce a mwe!

## MWE

Compiled with `-C opt-level=2`:

```rust
pub fn shr_u64(x: u64, y: u32) -> u64 {
    x >> y
}
```

Produces:

```lean
def shr_u64 (x : Std.U64) (y : Std.U32) : Result Std.U64 := do
  ok (U64.shr x y)
```

`U64.shr` is not defined anywhere in the Lean library. Nor is `U64.shl`.

## Severity

This is not a blocker in practice, for us the real issue is the Charon one, when that is fixed the problem goes away. Currently we have a tweak that implements a fix after Funs.lean has been created and this issue only happens in a single line of code.

## Fix

Since Aeneas can produce an output with `.shr` or `.shl`, should these be added to the Lean defs?

## Context

This was found via [curve25519-dalek's `from_bytes_wide`](https://github.com/dalek-cryptography/curve25519-dalek/blob/20101184a301471bdf0b6104a1894b3b219c645a/curve25519-dalek/src/backend/serial/u64/scalar.rs#L110), which has many shifts of the form `((words[i] >> N) | (words[j] << M)) & mask`. All of these are correctly promoted to `panic.>>` / `panic.<<` because the shift result is assigned to a local variable. However, the final line:

```rust
hi[4] = words[7] >> 20;
```

assigns the shift result directly through `IndexMut`, so the shift target is a dereferenced pointer `(*_6)` rather than a local. The reconstruction pass pattern match (in `reconstruct_fallible_operations.rs`) does not recognise this case.

### PR DESCRIPTION
**Pull request by MavenRain**
Define UScalar/IScalar wrapping_shl and wrapping_shr in the Lean backend, and route OWrap shifts through the wrapping extraction path in Extract.ml so they emit valid Lean names.

Fixes #816.

### CODE REVIEW

File: backends/lean/Aeneas/Std/Scalar/WrappingOps/Shl.lean [hunk 1]
```diff
@@ -0,0 +1,58 @@
...
+iscalar @[step_pure_def]
+def «%S».wrapping_shl (x : «%S») (s : Nat) : «%S» := @IScalar.wrapping_shl IScalarTy.«%S» x s
+
+/- [core::num::{_}::wrapping_shl] -/
+uscalar @[step_pure_def]
+def core.num.«%S».wrapping_shl : «%S» → Nat → «%S» := @UScalar.wrapping_shl UScalarTy.«%S»
+
+/- [core::num::{_}::wrapping_shl] -/
+iscalar @[step_pure_def]
+def core.num.«%S».wrapping_shl : «%S» → Nat → «%S» := @IScalar.wrapping_shl IScalarTy.«%S»
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/WrappingOps/Shl.lean]: We need to add the corresponding "name patterns" to these, so that Aeneas knows that, e.g., `core::num::u32::wrapping_shl` exists. The way to do is to add Rust tests that use these functions, and copy-paste here the `@[rust_fun ...]` introduced by Aeneas, before regenerating the `ExtractLeanBuiltin.ml` file by running `gmake extract-lean-std`.

File: backends/lean/Aeneas/Std/Scalar/WrappingOps/Shr.lean [hunk 2]
```diff
@@ -0,0 +1,59 @@
...
+iscalar @[step_pure_def]
+def «%S».wrapping_shr (x : «%S») (s : Nat) : «%S» := @IScalar.wrapping_shr IScalarTy.«%S» x s
+
+/- [core::num::{_}::wrapping_shr] -/
+uscalar @[step_pure_def]
+def core.num.«%S».wrapping_shr : «%S» → Nat → «%S» := @UScalar.wrapping_shr UScalarTy.«%S»
+
+/- [core::num::{_}::wrapping_shr] -/
+iscalar @[step_pure_def]
+def core.num.«%S».wrapping_shr : «%S» → Nat → «%S» := @IScalar.wrapping_shr IScalarTy.«%S»
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/WrappingOps/Shr.lean]: Same remark as for shl

File: src/extract/Extract.ml [hunk 3]
```diff
@@ -636,13 +636,16 @@ let extract_binop (span : Meta.span) (ctx : extraction_ctx)
...
+  | Lean, (Add (OWrap, _) | Sub (OWrap, _) | Mul (OWrap, _) | Div (OWrap, _)
+          | Shl (OWrap, _, _) | Shr (OWrap, _, _)) ->
       let binop =
         match binop with
         | Add _ -> "add"
         | Sub _ -> "sub"
         | Mul _ -> "mul"
         | Div _ -> "div"
+        | Shl _ -> "shl"
+        | Shr _ -> "shr"
```
Comment (sonmarcho) [inline src/extract/Extract.ml:655]: We need to add a test for this (https://github.com/AeneasVerif/aeneas/issues/816 typically)

**Review by sonmarcho — COMMENTED** [review]
Thanks for this and sorry for the slow reviews: I've been quite busy recently...
I added a few minor comments but overall it looks good to me.

**Comment by sonmarcho** [comment]
Thanks! You also need to regenerate the tests (see the failing nix CI).

File: backends/lean/Aeneas/Std/Scalar/WrappingOps/Shl.lean [hunk 4]
```diff
@@ -0,0 +1,71 @@
...
+attribute [rust_fun "core::num::{u128}::wrapping_shl" -canFail] core.num.U128.wrapping_shl
+attribute [rust_fun "core::num::{usize}::wrapping_shl" -canFail] core.num.Usize.wrapping_shl
+attribute [rust_fun "core::num::{i8}::wrapping_shl" -canFail] core.num.I8.wrapping_shl
+attribute [rust_fun "core::num::{i16}::wrapping_shl" -canFail] core.num.I16.wrapping_shl
+attribute [rust_fun "core::num::{i32}::wrapping_shl" -canFail] core.num.I32.wrapping_shl
+attribute [rust_fun "core::num::{i64}::wrapping_shl" -canFail] core.num.I64.wrapping_shl
+attribute [rust_fun "core::num::{i128}::wrapping_shl" -canFail] core.num.I128.wrapping_shl
+attribute [rust_fun "core::num::{isize}::wrapping_shl" -canFail] core.num.Isize.wrapping_shl
+
+@[simp, bvify] theorem UScalar.wrapping_shl_bv_eq {ty} (x : UScalar ty) (s : U32) :
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/WrappingOps/Shl.lean]:
```suggestion
@[simp, bvify, grind =, agrind =] theorem UScalar.wrapping_shl_bv_eq {ty} (x : UScalar ty) (s : U32) :
```

File: backends/lean/Aeneas/Std/Scalar/WrappingOps/Shl.lean [hunk 5]
```diff
@@ -0,0 +1,71 @@
...
+
+uscalar @[simp, bvify, grind =, agrind =] theorem «%S».wrapping_shl_bv_eq (x : «%S») (s : U32) :
+  («%S».wrapping_shl x s).bv = x.bv.shiftLeft (s.val % %BitWidth) := by
+  simp [«%S».wrapping_shl]
+
+uscalar @[simp, bvify, grind =, agrind =] theorem core.num.«%S».wrapping_shl_bv_eq (x : «%S») (s : U32) :
+  (core.num.«%S».wrapping_shl x s).bv = x.bv.shiftLeft (s.val % %BitWidth) := by
+  simp [core.num.«%S».wrapping_shl]
+
+@[simp, bvify] theorem IScalar.wrapping_shl_bv_eq {ty} (x : IScalar ty) (s : U32) :
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/WrappingOps/Shl.lean]:
```suggestion
@[simp, bvify, grind =, agrind =] theorem IScalar.wrapping_shl_bv_eq {ty} (x : IScalar ty) (s : U32) :
```

File: backends/lean/Aeneas/Std/Scalar/WrappingOps/Shr.lean [hunk 6]
```diff
@@ -0,0 +1,72 @@
...
+attribute [rust_fun "core::num::{u128}::wrapping_shr" -canFail] core.num.U128.wrapping_shr
+attribute [rust_fun "core::num::{usize}::wrapping_shr" -canFail] core.num.Usize.wrapping_shr
+attribute [rust_fun "core::num::{i8}::wrapping_shr" -canFail] core.num.I8.wrapping_shr
+attribute [rust_fun "core::num::{i16}::wrapping_shr" -canFail] core.num.I16.wrapping_shr
+attribute [rust_fun "core::num::{i32}::wrapping_shr" -canFail] core.num.I32.wrapping_shr
+attribute [rust_fun "core::num::{i64}::wrapping_shr" -canFail] core.num.I64.wrapping_shr
+attribute [rust_fun "core::num::{i128}::wrapping_shr" -canFail] core.num.I128.wrapping_shr
+attribute [rust_fun "core::num::{isize}::wrapping_shr" -canFail] core.num.Isize.wrapping_shr
+
+@[simp, bvify] theorem UScalar.wrapping_shr_bv_eq {ty} (x : UScalar ty) (s : U32) :
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/WrappingOps/Shr.lean]:
```suggestion
@[simp, bvify, grind =, agrind =] theorem UScalar.wrapping_shr_bv_eq {ty} (x : UScalar ty) (s : U32) :
```

File: backends/lean/Aeneas/Std/Scalar/WrappingOps/Shr.lean [hunk 7]
```diff
@@ -0,0 +1,72 @@
...
+
+uscalar @[simp, bvify, grind =, agrind =] theorem «%S».wrapping_shr_bv_eq (x : «%S») (s : U32) :
+  («%S».wrapping_shr x s).bv = x.bv.ushiftRight (s.val % %BitWidth) := by
+  simp [«%S».wrapping_shr]
+
+uscalar @[simp, bvify, grind =, agrind =] theorem core.num.«%S».wrapping_shr_bv_eq (x : «%S») (s : U32) :
+  (core.num.«%S».wrapping_shr x s).bv = x.bv.ushiftRight (s.val % %BitWidth) := by
+  simp [core.num.«%S».wrapping_shr]
+
+@[simp, bvify] theorem IScalar.wrapping_shr_bv_eq {ty} (x : IScalar ty) (s : U32) :
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/WrappingOps/Shr.lean]:
```suggestion
@[simp, bvify, grind =, agrind =] theorem IScalar.wrapping_shr_bv_eq {ty} (x : IScalar ty) (s : U32) :
```

**Review by sonmarcho — APPROVED** [review]

**Comment by sonmarcho** [comment]
You need to tun `gmake format` to reformat the `ExtractBuiltinLean.ml` file (see the failing CI).

**Review by sonmarcho — APPROVED** [review]
